US06403610B1
0.5 cm3 of 5N aqueous sodium hydroxide was added to a stirred solution of 0.34 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-ylthio)ethyl]piperidine-3-carboxylate in 3 cm3 of methanol and then the mixture was heated at a temperature in the region of 60° C. for 20 hours. After evaporating the solvents under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained was taken up in 5 cm3 of water and then acidified by addition of 1 cm3 of 35% hydrochloric acid. The mixture was again evaporated under reduced pressure under the same conditions as above; the residue obtained was taken up in 5 cm3 of a dichloromethane/methanol (90/10 by volume) mixture. The insoluble material was filtered off and then the solvent was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.35 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-ylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride was obtained in the form of a solid with a beige color which melts with softening in the region of 150° C.

reactant | sodium hydroxide | 5N, 0.5 cm3 | [OH-].[Na+]
reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-ylthio)ethyl]piperidine-3-carboxylate | 0.34 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)C(=O)OC | C26H32N2O3S2
reactant | hydrochloric acid | 1 cm3 | Cl | ClH
solvent | methanol | 3 cm3 | CO | CH4O
solvent | water | 5 cm3 | O | H2O
solvent | dichloromethane methanol | 5 cm3 | ClCCl.CO
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(thien-2-ylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride | 0.35 g | Cl.Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)C(=O)O | InChI=1S/C25H30N2O3S2.2ClH/c1-30-20-7-8-23-21(16-20)18(9-11-26-23)4-2-5-19-10-12-27(17-22(19)25(28)29)13-15-32-24-6-3-14-31-24;;/h3,6-9,11,14,16,19,22H,2,4-5,10,12-13,15,17H2,1H3,(H,28,29);2*1H/t19-,22+;;/m1../s1
